US06451821B1
1.78 g of lithium chloride and then 1.6 g of sodium borohydride are added, under an inert atmosphere, to a stirred solution of 12.7 g of ethyl (2R)-6-{[(benzyloxy)-carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]-amino}hexanoate in 130 cm3 of ethanol and 65 cm3 of tetrahydrofuran, cooled to between 0° C. and 5° C. After stirring for 16 hours at a temperature in the region of 20° C., a further 0.4 g of borohydride is added and the mixture is maintained at about 80° C. for 4 hours. The reaction medium is filtered and the filter cake is washed with ethanol. The filtrate is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and the residue obtained is taken up in a dichloromethane/ethyl acetate mixture (85/15 by volume) and left under cold conditions at about 5° C. The crystalline product is spin-filtered and purified by chromatography at atmospheric pressure on a column of silica gel (particle size 40-63μ; mass of silica: 600 g), eluting with a dichloromethane/ethyl acetate mixture (85/15 by volume). The fractions containing the expected product are collected. These fractions are combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 6.9 g of benzyl (SR)-5-{[(tert-butylamino)carbothioyl]amino}-6-hydroxyhexylcarbamate are obtained in the form of a colorless oil. (αD20=+24.0±0.8 at a concentration of 0.5% in methanol).

reactant | lithium chloride | 1.78 g | [Cl-].[Li+]
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | ethyl (2R)-6-{[(benzyloxy)-carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]-amino}hexanoate | 12.7 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](C(=O)OCC)NC(=S)NC(C)(C)C | C21H33N3O4S
reactant | borohydride | 0.4 g | [BH4-]
solvent | ethanol | 130 cm3 | C(C)O | C2H6O
solvent | tetrahydrofuran | 65 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | benzyl (SR)-5-{[(tert-butylamino)carbothioyl]amino}-6-hydroxyhexylcarbamate | 6.9 g | C(C)(C)(C)NC(=S)NC(CCCCNC(OCC1=CC=CC=C1)=O)CO | C19H31N3O3S
